US08034953B2
Step 1. N-{4-[4-(3-Bromo-4-fluorophenyl)-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl]-1,2,5-oxadiazol-3-yl}-1-(trifluoroacetyl)piperidine-4-carboxamide
This compound was prepared according to the procedure of Example 35, Step 2, using 3-(4-amino-1,2,5-oxadiazol-3-yl)-4-(3-bromo-4-fluorophenyl)-1,2,4-oxadiazol-5(4H)-one and 1-(trifluoroacetyl)piperidine-4-carbonyl chloride as the starting materials. LCMS for C18H14BrF4N6O5 (M+H)+: m/z=549.0, 550.9.

reactant | 3-(4-amino-1,2,5-oxadiazol-3-yl)-4-(3-bromo-4-fluorophenyl)-1,2,4-oxadiazol-5(4H)-one | NC=1C(=NON1)C1=NOC(N1C1=CC(=C(C=C1)F)Br)=O | C10H5BrFN5O3
reactant | 1-(trifluoroacetyl)piperidine-4-carbonyl chloride | FC(C(=O)N1CCC(CC1)C(=O)Cl)(F)F | C8H9ClF3NO2
product | N-{4-[4-(3-Bromo-4-fluorophenyl)-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl]-1,2,5-oxadiazol-3-yl}-1-(trifluoroacetyl)piperidine-4-carboxamide | BrC=1C=C(C=CC1F)N1C(=NOC1=O)C=1C(=NON1)NC(=O)C1CCN(CC1)C(C(F)(F)F)=O | C18H13BrF4N6O5
